data/mechanism_extracts/GreenChem/10.1039_D3GC02128A.json
{"doi": "10.1039_D3GC02128A", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical oxidative 1,2-aryl migration coupling of allyl alcohols with sulfonyl hydrazides to access γ-keto sulfones via a radical-mediated semipinacol-type rearrangement", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of sulfonyl hydrazide (2a) to a sulfonyl diazonium/radical species (loss of 3H+, 3e-, then N2 extrusion gives a sulfonyl radical); a later C-centered radical intermediate is further oxidized at the anode (-e-) to a cation that loses a proton to give the ketone product; protons are reduced at the cathode to H2", "key_intermediates": [{"name": "sulfonyl diazonium intermediate A (ArSO2-N=N+) from anodic oxidation of TsNHNH2", "smiles": null, "role": "transient"}, {"name": "sulfonyl radical B (ArSO2•) after N2 extrusion", "smiles": "O=S(=O)(c1ccc(C)cc1)[CH2]", "role": "reactive"}, {"name": "C-centered tertiary carbinol radical C (sulfonyl radical added to C=C of allyl alcohol)", "smiles": null, "role": "reactive"}, {"name": "1,2-aryl-migrated tertiary carbinol radical D (after phenyl 1,2-shift)", "smiles": null, "role": "reactive"}, {"name": "carbocation E (anodic oxidation of radical D)", "smiles": null, "role": "transient"}, {"name": "γ-keto sulfone product 3aa (after -H+ from E)", "smiles": "O=C(c1ccccc1)C(c1ccccc1)CS(=O)(=O)c1ccc(C)cc1", "role": "reactive"}], "electron_flow": "Anode oxidizes the sulfonyl hydrazide (2a) with loss of 3H+/3e- to a diazonium species A, which extrudes N2 to give sulfonyl radical B; B adds to the C=C of allyl alcohol 1a, forming carbinol radical C, which undergoes 1,2-aryl migration to ketyl-type radical D; D is oxidized at the anode to cation E, deprotonation of which yields the γ-keto sulfone 3aa, while protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Addition of 3.0 equiv TEMPO totally prevented the transformation (0% of 3aa), indicating a radical pathway"}, {"name": "BHT (butylated hydroxytoluene)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "3.0 equiv BHT greatly decreased conversion (3aa yield dropped to 36%), consistent with radical intermediates"}, {"name": "Cyclic voltammetry of 1a, 2a, and 1a+2a", "smiles": null, "purpose": "redox_probe", "observation": "2a shows oxidation peaks at 1.50 V and 2.01 V vs Ag/AgCl while 1a oxidizes at 2.36 V; in the mixture the 1a peak shifts, indicating 2a is preferentially oxidized at the anode and interacts with 1a"}, {"name": "X-ray diffraction of product 4", "smiles": null, "purpose": "intermediate_trap", "observation": "Structure of spirocyclic sulfone 4 (no 1,2-migration product from rigid benzo-cycloheptane substrate) confirmed by single-crystal XRD (CCDC 2268921), supporting steric control of the migration pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "For rigid benzo-cycloheptane-substituted allyl alcohols, no 1,2-aryl migration occurs and the sulfonyl radical instead adds to the C=C to give spirocyclic/epoxide-type sulfones (products 4 and 5), attributed to steric hindrance preventing the aryl shift; this represents a divergent radical pathway off the main rearrangement mechanism."}
